US05256675
A mixture of 2-amino-5-bromothiazole hydrochloride (2.2 g), 4-amino-2-mercaptopyrimidine (2.2 g) and potassium carbonate (6.5 g) in N,N-dimethylformamide (100 ml) was heated at 90° C. for 2.5 hours with stirring. The reaction mixture was concentrated under reduced pressure and water was added to this residue. The solution was extracted with a mixture of tetrahydrofuran and ethyl acetate (1:1), washed with aqueous saturated sodium chloride and dried over magnesium sulfate. The solvent was concentrated under reduced pressure to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 250 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give solid. The solid was triturated with ethanol to give 2-amino-5-(4-aminopyrimidin-2-ylthio)thiazole (1.25 g, yield: 55.6%). mp: 185°-187° C. (dec.)

reactant | 2-amino-5-bromothiazole hydrochloride | 2.2 g | Cl.NC=1SC(=CN1)Br
reactant | 4-amino-2-mercaptopyrimidine | 2.2 g | NC1=NC(=NC=C1)S | C4H5N3S
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-amino-5-(4-aminopyrimidin-2-ylthio)thiazole | 1.25 g, yield: 55.6% | NC=1SC(=CN1)SC1=NC=CC(=N1)N | C7H7N5S2
